US08859536B2
3-Benzyl-6-bromoquinazolin-4(3H)-one (97A)
Benzyl bromide (0.264 mL, 2.22 mmol) was added to a solution of 6-bromoquinazolin-4(3H)-one (0.5 g, 2.22 mmol) and NaH (0.08 g, 3.33 mmol) in DMF (5 mL) at 0° C. The reaction mixture was heated to 80° C. for 4 h. The reaction mixture was partitioned between ethyl acetate and water. Organic layer was separated, washed with brine, dried over sodium sulphate, filtered and concentrated in vacuo to afford title compound (0.4 g, 48.1%) as pale yellow solid. 1H NMR (400 MHz, CDCl3): δ 8.46 (d, J=1.6 Hz, 1H), 8.09 (s, 1H), 7.83 (dd, J1=2.0 Hz, J2=8.8 Hz, 1H), 7.57 (d, J=8.4 Hz, 1H), 7.4-7.2 (m, 5H), 5.2 (s, 2H); ESI-MS m/z=315 (M+H)+; LCMS purity: 84.2%

reactant | Benzyl bromide | 2.22 mmol, 0.264 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 6-bromoquinazolin-4(3H)-one | 2.22 mmol, 0.5 g | BrC=1C=C2C(NC=NC2=CC1)=O | C8H5BrN2O
reactant | NaH | 3.33 mmol, 0.08 g | [H-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-Benzyl-6-bromoquinazolin-4(3H)-one | 0.4 g, 48.1% | C(C1=CC=CC=C1)N1C=NC2=CC=C(C=C2C1=O)Br | C15H11BrN2O
